US07259175B2
To a solution of 6-Chloro-nicotinic acid (10 g, 63.5 mmol) and 4-Bromo-3-oxo-pentanoic acid methyl ester (1.51 g, 7.2 mmol) (14.6 g, 70 mmol) in acetone (100 mL) is added triethyl amine (9.76 mL, 70 mmol) at 0-5° C. After addition, the reaction mixture is warmed to room temperature and stirred overnight, solid is filtered off, the filtrate is concentrated and taken into methylene chloride, washed with water and brine, dried. The residue is purified by column giving 6-chloro-nicotinic acid 3-methoxycarbonyl-1-methyl-2-oxo-propyl ester (16.3 g.

reactant | 6-Chloro-nicotinic acid | 63.5 mmol, 10 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | 4-Bromo-3-oxo-pentanoic acid methyl ester | 7.2 mmol, 1.51 g | COC(CC(C(C)Br)=O)=O | C6H9BrO3
reactant | triethyl amine | 70 mmol, 9.76 mL | C(C)N(CC)CC | C6H15N
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 6-chloro-nicotinic acid 3-methoxycarbonyl-1-methyl-2-oxo-propyl ester | COC(=O)CC(C(C)OC(C1=CN=C(C=C1)Cl)=O)=O | C12H12ClNO5
